* NGSPICE file created from inverter_parax.ext - technology: ihp-sg13g2

.subckt inverter_parax Y A VSS VCC
X0 Y A VSS VSS sg13_lv_nmos ad=0.1066p pd=1.38u as=0.2151p ps=2.08u w=0.15u l=0.13u
X1 Y A VCC VCC sg13_lv_pmos ad=0.1066p pd=1.38u as=0.2151p ps=2.08u w=0.15u l=0.13u
C0 Y A 0.04431f
C1 VCC Y 0.03833f
C2 VCC A 0.11392f
C3 Y VSS 0.2381f
C4 VCC VSS 0.05239f
.ends

