Example r2r_dac TB: Convert analog sine to digital inputs, then back to digital via ideal & PEX DAC instances

.lib cornerRES.lib res_typ $ NOTE: Can use res_stat for statistical (Monte-Carlo-Like) modeling instead.

.include "behavioural_adc_8b.spice"
.include "../../xschem/simulation/r2r_dac.spice"
.include "../../magic/r2r_dac.sim.spice"

V1 vin GND SIN(0.6 0.6 1e6)

Xadc vin d0 d1 d2 d3 d4 d5 d6 d7 behavioural_adc_8b
Xdac d7 d6 d5 d4 d3 d2 d1 d0 vout GND r2r_dac
Xdacpex d0 d1 d2 d3 d4 d5 d6 d7 GND voutpex r2r_dac_pex

.control
tran 100p 5u
save all
write tb_r2r_dac_example.raw
.endc

