** sch_path: /home/anton/projects/ttihp26b-analog-junk/xschem/tb_comparator.sch
**.subckt tb_comparator
V1 inp 0 pulse({vinlo-vnudge} {vinhi+vnudge} 0 100n 100n 20n 239n)
R1 inp net3 1
R2 out 0 1Meg
Vvpwr VPWR 0 1.2
x1 VPWR 0 out net2 net3 Vbias comparator
R3 inn net2 1
V3 inn 0 pulse({vinlo} {vinhi} 10n 100n 100n 20n 271n)
XM3 net1 net1 0 0 sg13_lv_nmos w=2.00u l=0.39u ng=1 m=1 mm_ok=1
Vvbref VBREF 0 1.2
R4 VBREF net1 30k
XM1 Vbias Vbias 0 0 sg13_lv_nmos w=2.00u l=0.39u ng=1 m=1 mm_ok=1
XM2 Vbias Vbias VBREF VBREF sg13_lv_pmos w=1.00u l=0.30u ng=1 m=1 mm_ok=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt


.param temp=27
.param vinlo=0.3
.param vinhi=0.9
.param vnudge=0.02
.option savecurrents
.control
save
+ @r2[i] @n.x1.xm5.nsg13_lv_nmos[ids] @n.xm3.nsg13_lv_nmos[ids] @n.xm1.nsg13_lv_nmos[ids]
+ all
tran 50p 5000n
write tb_comparator.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  comparator.sym # of pins=6
** sym_path: /home/anton/projects/ttihp26b-analog-junk/xschem/comparator.sym
** sch_path: /home/anton/projects/ttihp26b-analog-junk/xschem/comparator.sch
.subckt comparator VPWR VGND out in_n in_p Vbias
*.iopin VPWR
*.ipin in_p
*.ipin in_n
*.opin out
*.iopin VGND
*.ipin Vbias
XM1 net2 in_p net1 VGND sg13_lv_nmos w=4.00u l=0.26u ng=1 m=1 mm_ok=1
XM4 diff net2 VPWR VPWR sg13_lv_pmos w=8.00u l=0.26u ng=1 m=1 mm_ok=1
XM5 net1 Vbias VGND VGND sg13_lv_nmos w=2.00u l=0.39u ng=1 m=1 mm_ok=1
XM2 diff in_n net1 VGND sg13_lv_nmos w=4.00u l=0.26u ng=1 m=1 mm_ok=1
XM3 net2 net2 VPWR VPWR sg13_lv_pmos w=8.00u l=0.26u ng=1 m=1 mm_ok=1
XM6 diff_amp diff VPWR VPWR sg13_lv_pmos w=8.00u l=0.26u ng=1 m=1 mm_ok=1
XM7 diff_amp Vbias VGND VGND sg13_lv_nmos w=2.00u l=0.39u ng=1 m=1 mm_ok=1
XM8 out diff_amp VPWR VPWR sg13_lv_pmos w=1.20u l=0.13u ng=1 m=1 mm_ok=1
XM9 out diff_amp VGND VGND sg13_lv_nmos w=0.50u l=0.13u ng=1 m=1 mm_ok=1
.ends

.end
